US09024032B2
4′-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-3′-fluoro-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one
To a room temperature solution of 132 mg (0.292 mmol) 3′-fluoro-4′-iodo-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one in 2 mL THF in a 5 mL microwave vial (Biotage) were added 253 mg (0.584 mmol) 5-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine, 1 mL 1.0 M cesium carbonate (1.0 mmol), and 23.8 mg (0.029 mmol) 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex. The vial was sealed and the reaction mixture was heated at 135° C. under microwave irradiation for 15 minutes, then cooled. The organic layer was separated, washed with 1 mL water, dried over Na2SO4, filtered, stirred over Quadrapure TU resin (Aldrich), concentrated in vacuo, and used without further purification.

reactant | 3′-fluoro-4′-iodo-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one | 0.292 mmol, 132 mg | FC=1C(=NC=CC1I)N1C=C(C(C=C1)=O)OCC1=CC=C(C=C1)OC | C18H14FIN2O3
reactant | 5-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 0.584 mmol, 253 mg | ClC=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)B2OC(C(O2)(C)C)(C)C | C22H36BClN2O2Si
reactant | cesium carbonate | 1.0 mmol, 1.0 M, 1 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4′-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-3′-fluoro-3-[(4-methoxybenzyl)oxy]-4H-1,2′-bipyridin-4-one | ClC=1C(=C2C(=NC1)NC=C2)C2=C(C(=NC=C2)N2C=C(C(C=C2)=O)OCC2=CC=C(C=C2)OC)F | C25H18ClFN4O3
